US04599344
[2-(4-Chlorophenyl)ethyl]triphenylphosphonium chloride
Combine 15.0 g (0.086 mole) of 2-(4-chlorophenyl)ethyl chloride and 20.98 g (0.08 mole) of triphenylphosphine. Heat the mixture under a nitrogen atmosphere at 110°-120° C. for 3.5 days. Follow the progress of the reaction by thin layer chromatography on silica gel (hexanes). At the completion of the reaction triturate the resulting solid with 250 ml of anhydrous ether to afford the title compound.

reactant | 2-(4-chlorophenyl)ethyl chloride | 0.086 mole, 15.0 g | ClC1=CC=C(C=C1)CCCl | C8H8Cl2
reactant | triphenylphosphine | 0.08 mole, 20.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | [2-(4-Chlorophenyl)ethyl]triphenylphosphonium chloride | [Cl-].ClC1=CC=C(C=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H23ClP.ClH/c27-23-18-16-22(17-19-23)20-21-28(24-10-4-1-5-11-24,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-19H,20-21H2;1H/q+1;/p-1
